US04478842
1-(4-cyanobutyl)-3-methyl-2-(3-pyridyl)indole (1.5 g) in 15 ml of ether is added to a solution of 0.0103 mole of methyl magnesium bromide in 15 ml of ether, and this mixture is heated at reflux temperature for 3 hours. After cooling, 10 ml of 6N HCl is added dropwise and this mixture refluxed for several hours. The reaction mixture is washed with ether, and basified to pH 10-11 with 3N NaOH. Ether extraction and evaporation of the solvent yields 1-(5-oxohexyl)-3-methyl-2-(3-pyridyl)- indole; IR 1720 cm-1 ; NMR (CDCl3)δ2.0.

reactant | 1-(4-cyanobutyl)-3-methyl-2-(3-pyridyl)indole | 1.5 g | C(#N)CCCCN1C(=C(C2=CC=CC=C12)C)C=1C=NC=CC1 | C19H19N3
reactant | methyl magnesium bromide | 0.0103 mole | C[Mg]Br
reactant | HCl | 6N, 10 ml | Cl | ClH
reactant | ether | 15 ml | CCOCC | C4H10O
reactant | ether | 15 ml | CCOCC | C4H10O
product | 1-(5-oxohexyl)-3-methyl-2-(3-pyridyl)- indole | O=C(CCCCN1C(=C(C2=CC=CC=C12)C)C=1C=NC=CC1)C | C20H22N2O
